US04379791
Preparation of 2-(3-Bromophenyl)-4-thiazolylacetamide
Ethyl 2-(3-bromophenyl)-4-thiazolylacetate prepared by the process in Example 2 (10 g) in 75 ml of 28% NH4OH was stirred at room temperature. About 10 ml of dioxane was added to facilitate mixing. After 10 days, the crystalline product was filtered. The yield of product was 8.3 g, mp 150°-152° C. When recrystallized from alcohol, it melted 152°-154° C.

reactant | Ethyl 2-(3-bromophenyl)-4-thiazolylacetate | BrC=1C=C(C=CC1)C=1SC=C(N1)CC(=O)OCC | C13H12BrNO2S
reactant | dioxane | 10 ml | O1CCOCC1 | C4H8O2
reactant | NH4OH | 75 ml | [NH4+].[OH-]
product | 2-(3-Bromophenyl)-4-thiazolylacetamide | BrC=1C=C(C=CC1)C=1SC=C(N1)CC(=O)N | C11H9BrN2OS
